US06284924B1
3.1 g of 2-hydroxy-3,6-dimethoxycarbonyl naphthalene was suspended in 30 g of N,N-dimethylformamide and 1.6 g of 1-bromo-3-chloropropane, 1.5 g of sodium carbonate and 0.1 g of polyethyleneglycol (average molecular weight 3000) were added thereto and reacted for 15 hours at 50° C. Then, the reaction mixture was poured into a mixed solution of 400 g of water and 100 g of methanol, about 1 hour after, the precipitates were collected by filtration. The filtrate was washed well with methanol and water and dried to give 2-(3′-chloropropyloxy)-3,6-dimethoxy carbonyl naphthalene as 2.6 g of pale yellow powder(melting point: 115° C.).

reactant | 2-hydroxy-3,6-dimethoxycarbonyl naphthalene | 3.1 g | OC1=CC2=CC=C(C=C2C=C1C(=O)OC)C(=O)OC | C14H12O5
reactant | sodium carbonate | 1.5 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 400 g | O | H2O
reactant | methanol | 100 g | CO | CH4O
reactant | 1-bromo-3-chloropropane | 1.6 g | BrCCCCl | C3H6BrCl
solvent | N,N-dimethylformamide | 30 g | CN(C=O)C | C3H7NO
product | 2-(3′-chloropropyloxy)-3,6-dimethoxy carbonyl naphthalene | ClCCCOC1=CC2=CC=C(C=C2C=C1C(=O)OC)C(=O)OC | C17H17ClO5
